### PR TITLE
[RFC] Complete homogeneous symmetric functions

### PR DESCRIPTION
**Pull request by SashaIr**
Implemented complete homogeneous symmetric functions. First time contributing to Mathlib, request for comments.

Co-authored-by: Nirvana Coppola nirvanac93@gmail.com

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Welcome to mathlib, it's good to have you here!
I presume you're looking for review comments on your code now; I have labelled your PR as `awaiting-review` accordingly.
In case you haven't already, feel free to look at the [contribution guidelines](https://leanprover-community.github.io/contribute/index.html). This also explains the above detail.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 1]
```diff
@@ -309,4 +309,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+@[ext]
+structure Exponent (n : ℕ) :=
+  (exp : σ → ℕ)
+  (sum_eq : ∑ i, exp i = n)
+
+lemma Exponent.single_le_sum {n : ℕ} (s : Exponent σ n) (i : σ) : s.exp i ≤ n := by
+  have h : ∑ i, s.exp i = n := s.sum_eq
+  simp_rw [←h]
+  exact Finset.single_le_sum (fun i _ => Nat.zero_le (s.exp i)) (mem_univ i)
+  done
```
Comment (grunweg) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:329]: AIUI, you can complete remove the "done" tactic. (It is used in the natural number game, but not in mathlib.)

This also applies in a number of places below.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 2]
```diff
@@ -309,4 +309,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+
+@[ext]
+structure Exponent (n : ℕ) :=
+  (exp : σ → ℕ)
+  (sum_eq : ∑ i, exp i = n)
+
+lemma Exponent.single_le_sum {n : ℕ} (s : Exponent σ n) (i : σ) : s.exp i ≤ n := by
+  have h : ∑ i, s.exp i = n := s.sum_eq
+  simp_rw [←h]
+  exact Finset.single_le_sum (fun i _ => Nat.zero_le (s.exp i)) (mem_univ i)
```
Comment (grunweg) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:328]: Small nitpick: mathlib style prefers the ↦ arrow (inserted with \mapsto) over "=>".

This also applies to many other places below.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 3]
```diff
@@ -309,4 +309,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+    ext i
+    have := congr_arg (fun s => s i) h
+    simp only [Function.Injective.eq_iff] at this
+    exact Fin.mk_eq_mk.mp this
+  exact Finite.of_injective f hf
+  done
+
+instance exponentFintype (n : ℕ) : Fintype (Exponent σ n) := Fintype.ofFinite (Exponent σ n)
+
+def exponentLiftEquiv (e : σ ≃ τ) : Exponent σ n ≃ Exponent τ n := {
```
Comment (grunweg) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:356]: A few comments, just about the style
- just two spaces of indentation will suffice
- I think (untested) you can write these as `toFun s := ` etc.
- you can use dot notation, e.g. replace `Equiv.sum_comp e` by `e.sum_comp`.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 4]
```diff
@@ -309,4 +309,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+          toFun := fun s => ⟨fun i => s.exp (e.invFun i), by simp_rw [← s.sum_eq]; exact Equiv.sum_comp e.symm s.exp⟩,
+          invFun := fun s => ⟨fun i => s.exp (e.toFun i), by simp_rw [← s.sum_eq]; exact Equiv.sum_comp e s.exp⟩,
+          left_inv := fun s => by simp,
+          right_inv := fun s => by simp
+          }
+
+lemma exponentLiftEquiv_toFun (e : σ ≃ τ) (s : Exponent σ n) (i : τ) : ((exponentLiftEquiv _ e).toFun s).exp i = s.exp (e.invFun i) := by
```
Comment (grunweg) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:363]: This line is longer than 100 characters. Please add a line break (e.g., before the conclusion of the lemma).

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 5]
```diff
@@ -309,4 +309,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+    _ = ∑ i : σ, ∏ j : σ, X j ^ (Exponent.fintype_toExponent σ i).exp j := by apply Fintype.sum_equiv; swap; symm; exact Equiv.ofBijective _ (Exponent.fintype_toExponent_bijective σ); intro s; congr; simp only [Exponent.fintype_toExponent]; funext i; congr; simp only [this]
+    _ = ∑ i : σ, X i := by congr; funext i; simp only [Exponent.fintype_toExponent, Equiv.toFun_as_coe]; simp_rw [pow_eq _ _]; simp only [Finset.prod_ite_eq,
+      Finset.mem_univ, ite_true]
+
+theorem map_hsymm (n : ℕ) (f : R →+* S) : map f (hsymm σ R n) = hsymm σ S n := by
+  simp_rw [hsymm, map_sum, map_prod, map_pow, map_X]
+
+theorem rename_hsymm (n : ℕ) (e : σ ≃ τ) : rename e (hsymm σ R n) = hsymm τ R n :=
+  calc
+    rename e (hsymm σ R n) = ∑ μ : Exponent σ n, ∏ i : σ, X (e i) ^ (μ.exp i) := by
```
Comment (grunweg) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:529]: It looks like you have multiple goals at some points. Please use focusing dots, to make sure only one goal is active at the time. (This also makes the proof nicer to read.)

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 6]
```diff
@@ -309,4 +309,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+                · rw [ki]
+                  exact hi
+                · rw [kj]
+                  exact h1
+              have f2 : f.card = 2 := by
+                simp only [Finset.card_insert_of_not_mem, Finset.card_singleton, hji]
+                rw [Finset.card_eq_two]
+                use i, j
+                constructor
+                symm
```
Comment (grunweg) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:419]: Same as below: you (presumably) have multiple goals here; please use focusing dots.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 7]
```diff
@@ -309,4 +309,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+  apply Fintype.card_eq_one_iff.mpr
+  use Exponent.zero σ
+  intro x
+  ext i
+  simp only [Exponent.sum_eq, Exponent.zero_of_sum_eq_zero]
+  done
+
+lemma Exponent.one_sum_singleton (s : Exponent σ 1) : ∃! (i : σ) , Exponent.one σ i = s:= by
+  have h : ∑ i, s.exp i = 1 := s.sum_eq
+  have (i : σ): exp s i = 0 ∨ exp s i = 1 := by
```
Comment (grunweg) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:378]: As a meta comment: this proof is (relatively) long and deeply nested. Usually, that means it can be simplified or split up.
In other words, it could help to ask yourself questions like
- are there intermediate results proven that will be useful outside of this lemma?
- can you simplify ("golf") the proof?
- do you need all the intermediate `have`s: can they be inlined or dropped?
(I'd have to know your field better to answer any of these conclusively. Addressing the style comments will certainly help with the second point; often, this also makes the other two points clearer.)

**Review by grunweg — COMMENTED** [review]
This is not my area of mathlib, so I didn't review the math or design questions carefully. However, I have some style comments already. (It's completely normal to go through one or several such rounds, especially in the beginning.)
In case you don't know this yet: the [style guide](https://leanprover-community.github.io/contribute/style.html) contains these and a few other items; if you incorporate them yourself already, reviewing will happen faster :-)

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 8]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
 
 end PowerSum
 
+section Exponent
+
+open Classical
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:317]: Is this really necessary? It's often a better idea to avoid it and fix the proofs that need `Classical`.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 9]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+open Composition
+open Finset
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:319]:
```suggestion
open Composition Finset
```

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 10]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+
+variable (σ R) [CommSemiring R] [CommSemiring S] [Fintype σ] [Fintype τ]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:321]:
```suggestion
variable (σ R : Type*) [CommSemiring R] [CommSemiring S] [Fintype σ] [Fintype τ]
```
Not sure otherwise is fully universe polymorphic.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 11]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+
+@[ext]
+structure Exponent (n : ℕ) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:324]: We surely want a docstring here (and see any other mathlib file for the header of a file).

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 12]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+  (exp : σ → ℕ)
+  (sum_eq : ∑ i, exp i = n)
+
+lemma Exponent.single_le_sum {n : ℕ} (s : Exponent σ n) (i : σ) : s.exp i ≤ n := by
+  have h : ∑ i, s.exp i = n := s.sum_eq
+  simp_rw [←h]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:330]:
```suggestion
  simp_rw [← h]
```
Are you on an old mathlib? There should be a linter catching this.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 13]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+  exact Finset.single_le_sum (fun i _ => Nat.zero_le (s.exp i)) (mem_univ i)
+  done
+
+lemma Exponent.zero_of_sum_eq_zero (s : Exponent σ 0) : ∀ i, s.exp i = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:334]:
```suggestion
lemma Exponent.zero_of_sum_eq_zero (s : Exponent σ 0) (i : ...) : s.exp i = 0 := by
```
This is the preferred style.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 14]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+    intros s t h
+    rw [Exponent.ext_iff]
+    ext i
+    have := congr_arg (fun s => s i) h
+    simp only [Function.Injective.eq_iff] at this
+    exact Fin.mk_eq_mk.mp this
+  exact Finite.of_injective f hf
+  done
+
+instance exponentFintype (n : ℕ) : Fintype (Exponent σ n) := Fintype.ofFinite (Exponent σ n)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:357]: Here you surely need classical.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 15]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+
+def exponentLiftEquiv (e : σ ≃ τ) (n : ℕ): Exponent σ n ≃ Exponent τ n := {
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:359]: I think the indentation is not the recommended one. Have you considered using `where`? It looks nicer in my opinion. Like
```lean
def myPoint : Point where
  x := 2
  y := -1
  z := 4
```

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 16]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+  done
+
+def Exponent.fintype_toExponent : (σ → Exponent σ 1) := (fun i => ⟨fun j => if i = j then 1 else 0, by simp only [sum_ite_eq, mem_univ, ite_true]⟩)
+
+lemma Exponent.fintype_toExponent_bijective : Function.Bijective (Exponent.fintype_toExponent σ) := by
+  rw [Function.bijective_iff_existsUnique]
+  exact Exponent.one_sum_singleton σ
+
+lemma Exponent.fintype_toExponent_equiv : σ ≃ Exponent σ 1 := by
+  exact Equiv.ofBijective _ (Exponent.fintype_toExponent_bijective σ)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:468]: Here you don't even need to enter into tactic mode.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 17]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+  done
+
+lemma Exponent.exponentCard_one : Fintype.card (Exponent σ 1) = Fintype.card σ := by
+  apply Fintype.card_congr
+  symm
+  exact Exponent.fintype_toExponent_equiv _
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:474]:
```suggestion
  exact (Exponent.fintype_toExponent_equiv _).symm
```
Untested. You can even golf it to a one liner.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 18]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+  done
+
+end Exponent
+
+section CompleteHomogeneousSymmetric
+
+open Classical
+
+variable (σ R) [CommSemiring R] [CommSemiring S] [Fintype σ] [Fintype τ]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Symmetric.lean:483]: You already have these lines. You may need to move them before some section, but I think you need them only once.

**Review by riccardobrasca — COMMENTED** [review]
Can you add the header of the file? More importantly, we need some mathematical explanation.

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean (hunk 12 above)
Comment (SashaIr) [reply Mathlib/RingTheory/MvPolynomial/Symmetric.lean:330]: I will follow the suggestion, ask for access, and create a new branch. These changes are minimal, it's better to switch now. :)

File: Mathlib/RingTheory/MvPolynomial/Symmetric.lean [hunk 19]
```diff
@@ -309,4 +312,244 @@ theorem psum_isSymmetric (n : ℕ) : IsSymmetric (psum σ R n) := rename_psum _
...
+open Classical
+open Composition
+open Finset
+
+variable (σ R) [CommSemiring R] [CommSemiring S] [Fintype σ] [Fintype τ]
+
+@[ext]
+structure Exponent (n : ℕ) :=
+  (exp : σ → ℕ)
+  (sum_eq : ∑ i, exp i = n)
```
[the remark this answers is not in the document]
Comment (SashaIr) [reply Mathlib/RingTheory/MvPolynomial/Symmetric.lean:326]: Honestly, I did not expect `Exponent` to survive this PR, I suspected that there were alternative options but I couldn't find one; I will try to use `Sym` instead. As you say, it might still be more practical to keep `Exponent` and show that there is an equivalence, but I'll try to work without it unless it's really beneficial.

**Comment by SashaIr** [comment]
New PR following the guidelines here: #11026. I'm closing this one, thanks everybody!
